US08614221B2
2-tert-Butyl-7-phenyl-9H-1,4,9,9b-tetraaza-cyclopenta[a]naphthalen-8-one [CCXXXVIII]
A solution of 7-amino-2-tert-butylpyrazolo[1,5-a]pyrimidine-6-carbaldehyde (1.5 g, 6.87 mmol, 1.00 eq.), methyl 2-phenylacetate (4.1 g, 27.30 mmol, 4.00 eq.) and NaOtBu (1.3 g, 13.53 mmol, 2.00 eq.) in toluene (30 mL) was stirred at 105° C. for about 30 min under nitrogen. Then the reaction mixture was added 30 mL of DMF and the mixture was stirred for about 2 days at 105° C. After concentrating under vacuum, the residue was diluted with water and extracted with ethyl acetate. The organic layers were combined and dried over anhydrous sodium sulfate and concentrated under vacuum. The residue was applied onto a silica gel column with ethyl acetate/petroleum ether (1:6) to give the resulted product (1 g, 46%) as a yellow solid. LCMS (m/e)=319 (M+H); 1H NMR (300 MHz, DMSO, δ, ppm) 8.82 (s, 1H), 8.42 (s, 1H), 7.72 (d, J=6.9 Hz, 2H), 7.50-7.38 (m, 3H), 6.72 (s, 1H), 1.42 (s, 9H).

reactant | 7-amino-2-tert-butylpyrazolo[1,5-a]pyrimidine-6-carbaldehyde | 6.87 mmol, 1.5 g, 1.00 eq. | NC1=C(C=NC=2N1N=C(C2)C(C)(C)C)C=O | C11H14N4O
reactant | methyl 2-phenylacetate | 27.30 mmol, 4.1 g, 4.00 eq. | C1(=CC=CC=C1)CC(=O)OC | C9H10O2
reactant | NaOtBu | 13.53 mmol, 1.3 g, 2.00 eq. | CC(C)(C)[O-].[Na+]
reactant | DMF | 30 mL | CN(C)C=O | C3H7NO
solvent | toluene | 30 mL | C1(=CC=CC=C1)C | C7H8
product | 2-tert-Butyl-7-phenyl-9H-1,4,9,9b-tetraaza-cyclopenta[a]naphthalen-8-one | 1 g, 46% | C(C)(C)(C)C=1C=C2N(C=3NC(C(=CC3C=N2)C2=CC=CC=C2)=O)N1 | C19H18N4O
